US09238647B2
Step C: 2-Methyl-N-{(1Z)-[2-(trifluoromethyl)pyrimidin-5-yl]methylene}propane-2-sulfinamide
To a solution of 2-(trifluoromethyl)pyrimidine-5-carbaldehyde (27.2 g, 99 mmol) in dichloroethane (250 mL) was added (R)-(+)-2-methyl-2-propanesulfinamide (13.3 g, 109.0 mmol) and copper(II) sulfate (31.5 g, 197.0 mmol). The mixture was heated to 50° C. After 18 h, the mixture was cooled to ambient temperature and filtered through a pad of silica gel. The filtered cake was washed with dichloromethane and the filtrate was concentrated to give the title compound (27.3 g). MS 224 [(M+1)-56].

reactant | 2-(trifluoromethyl)pyrimidine-5-carbaldehyde | 99 mmol, 27.2 g | FC(C1=NC=C(C=N1)C=O)(F)F | C6H3F3N2O
reactant | (R)-(+)-2-methyl-2-propanesulfinamide | 109.0 mmol, 13.3 g | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | dichloroethane | 250 mL | ClC(C)Cl | C2H4Cl2
catalyst | copper(II) sulfate | 197.0 mmol, 31.5 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | 2-Methyl-N-{(1Z)-[2-(trifluoromethyl)pyrimidin-5-yl]methylene}propane-2-sulfinamide | 27.3 g | CC(C)(C)S(=O)\N=C/C=1C=NC(=NC1)C(F)(F)F | C10H12F3N3OS
